US07601772B2
The synthesis of 1-methyl-3-hexadecyl imidazolium chloride (C16-mim)
The procedure of Example 1 was repeated with minor changes. 868 g of 1-chlorohexadecane and 570 g of 1-methylimidazole were added into a 2000 ml three-neck round-bottom flask. The reaction temperature was set from 95 to 100° C. After four hours the milk-like solution transferred into homogenous solution. The reaction was continued for three days. Then, the product was washed with ethyl acetate five times and toluene three times. After that, it was dried under vacuum for three days.

reactant | 1-chlorohexadecane | 868 g | ClCCCCCCCCCCCCCCCC | C16H33Cl
reactant | 1-methylimidazole | 570 g | CN1C=NC=C1 | C4H6N2
product | 1-methyl-3-hexadecyl imidazolium chloride | [Cl-].C[N+]1=CN(C=C1)CCCCCCCCCCCCCCCC | InChI=1S/C20H39N2.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-22-19-18-21(2)20-22;/h18-20H,3-17H2,1-2H3;1H/q+1;/p-1
